US05541229
4'-[(2-n-Butyl-6-(N-cyclohexylaminocarbonyl-methyl-amino)-benzimidazol-1-yl)-methyl]-4-chloro-2-(1H-tetrazol-5-yl)-biphenyl
Prepared in analogous manner to Example 59 from 4'-[(2-n-butyl-6-(N-cyclohexylaminocarbonyl-methyl-amino)-benzimidazol-1-yl)-methyl]-4-chloro-2-cyano-biphenyl and ammonium chloride/sodium azide.

reactant | 4'-[(2-n-butyl-6-(N-cyclohexylaminocarbonyl-methyl-amino)-benzimidazol-1-yl)-methyl]-4-chloro-2-cyano-biphenyl | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=C(C=C1)Cl)C#N)C=C(C=C2)N(C(=O)NC2CCCCC2)C | C33H36ClN5O
reactant | ammonium chloride sodium azide | [Cl-].[NH4+].[N-]=[N+]=[N-].[Na+]
product | 4'-[(2-n-Butyl-6-(N-cyclohexylaminocarbonyl-methyl-amino)-benzimidazol-1-yl)-methyl]-4-chloro-2-(1H-tetrazol-5-yl)-biphenyl | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=C(C=C1)Cl)C1=NN=NN1)C=C(C=C2)N(C(=O)NC2CCCCC2)C | C33H37ClN8O
